US04140696
3-Amino-5-methyl-2-phenyl-4-propionylpyrrole
Starting from 2-amino-2-phenylacetonitrile and hexane-2,4-dione, the open-chain intermediate compound is obtained, b.p. 160° C./0.3 mm Hg. The title compound is obtained in an overall yield of 53%, m.p. 166°-168° C. (from methanol).

reactant | 2-amino-2-phenylacetonitrile | NC(C#N)C1=CC=CC=C1 | C8H8N2
reactant | hexane-2,4-dione | CC(CC(CC)=O)=O | C6H10O2
solvent | methanol | CO | CH4O
product | 3-Amino-5-methyl-2-phenyl-4-propionylpyrrole | yield of 53% | NC1=C(NC(=C1C(CC)=O)C)C1=CC=CC=C1 | C14H16N2O
